US06057369
To a mixture of methyl 2-oxo-3-(3-phenylpropyl-1-yl)cyclopentanecarboxylate (1 g, 3.8 mmol) in hexane (40 mL) is added phosphorus pentachloride (1.5 g, 7.6 mmol). The mixture is heated under reflux for 2.5 hours. The solution is cooled in ice and methanol (few mL) is added. The mixture is stirred at room temperature for 15 minutes. The mixture is poured into water and is extracted with hexane. The organic layer is washed with water and is dried over MgSO4. The organic layer is removed in vacuo and the residue is dissolved in dichloromethane. To this solution is added 2 M oxalyl chloride (few mL). The mixture is stirred at room temperature for 2 hours. The solvent is removed in vacuo and the residue is dissolved in dichloromethane and methanol (few mL) is added. The solution is stirred at room temperature for 15 minutes. The solvent is removed in vacuo and the residue is chromatographed on silica gel (20:1 hexane:ethyl acetate) to give methyl 2-chloro-3-(3-phenylpropyl-1-yl)-1-cyclopentenecarboxylate (0.2 g, 20%): 1H-NMR (300 MHz, CDCl3) δ (TMS) 1.50-1.70 (m, 4H), 1.78-1.92 (m, 1H), 2.07-2.19 (m, 1H), 2.53-2.71 (m, 4H), 2.78-2.92 (m, 1H), 3.78 (s, 3H), 7.17-7.32 (m, 5H); MS (EI) m/e 278 (M+).

reactant | methyl 2-oxo-3-(3-phenylpropyl-1-yl)cyclopentanecarboxylate | 3.8 mmol, 1 g | O=C1C(CCC1=CCCC1=CC=CC=C1)C(=O)OC | C16H18O3
reactant | phosphorus pentachloride | 7.6 mmol, 1.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | hexane | 40 mL | CCCCCC | C6H14
product | methyl 2-chloro-3-(3-phenylpropyl-1-yl)-1-cyclopentenecarboxylate | 0.2 g, 20% | ClC1=C(CCC1=CCCC1=CC=CC=C1)C(=O)OC | C16H17ClO2
